US06251925B1
Methyl 3-(3-methoxyphenyl)-benzoate as a clear colorless liquid (3.34 g);
n.m.r δ values include 1.47 (t, 2.9 H), 4.04 (s, 0.8 H), 4.50 (q, 1.46 H), 7.67 (t, 1 H), 7.97-7.99 (m, 2 H), 8.10-8.16 (m, 1 H), 8.29 (d, 1 H), 8.43-8.48 (m, 1 H), 8.86-8.87 (m, 1 H); from 2-bromo-6-pyridine-carboxylic acid ethyl ester (1.2 g) in toluene (20 mL), tetrakis(triphenylphosphine) palladium(0) (181 mg), 2 M aqueous sodium carbonate (3.3 mL) , and 3-nitrophenylboronic acid (1.0 g) in methanol (5 mL).

reactant | 2-bromo-6-pyridine-carboxylic acid ethyl ester | 1.2 g | C(C)OC(=O)C1=CC=CC(=N1)Br | C8H8BrNO2
reactant | sodium carbonate | 2 M, 3.3 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | 3-nitrophenylboronic acid | 1.0 g | [N+](=O)([O-])C=1C=C(C=CC1)B(O)O | C6H6BNO4
reactant | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
solvent | methanol | 5 mL | CO | CH4O
catalyst | tetrakis(triphenylphosphine) palladium(0) | 181 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | Methyl 3-(3-methoxyphenyl)-benzoate | COC=1C=C(C=CC1)C=1C=C(C(=O)OC)C=CC1 | C15H14O3
